US09315521B2
To a solution of (3-fluoropyridin-4-yl)methanol (910 mg, 7.2 mmol) in anhydrous chloroform (25 mL) was added dropwise a solution of phosphorus tribromide (675 μL, 7.2 mmol) in anhydrous chloroform (10 mL) at 0° C. The mixture was stirred for 3 hours at room temperature. Water was added and extracted 3 times with dichloromethane. The organic phase was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, 4-(bromomethyl)-3-fluoropyridine was obtained (260 mg, 19% yield) and used in the next step without further purification; 1H NMR (400 MHz, MeOd4): δ 0.81 (s, 2H), 8.25 (t, J=6.4 Hz, 1H). 8.76 (d, J=5.9 Hz, 1H), 9.05 (d, J=3.5 Hz, 1H).

reactant | (3-fluoropyridin-4-yl)methanol | 7.2 mmol, 910 mg | FC=1C=NC=CC1CO | C6H6FNO
reactant | phosphorus tribromide | 7.2 mmol, 675 μL | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(bromomethyl)-3-fluoropyridine | 19% yield | BrCC1=C(C=NC=C1)F | C6H5BrFN
